US05998469
Synthesis of α-[2-(4-Methoxyphenylthio)-5-furyl]-N-n-propylnitrone
The title compound was prepared according to the procedure described in Example 1 using 4-methoxybenzenethiol and N-n-propylhydroxylamine. The title compound was isolated in 76.6% yield as slightly yellowish crystals, m.p. 63.0° C. (Rf =0.17 on a silica gel plate using hexanes/EtOAc, 2:1, v:v, as the eluant).

reactant | 4-methoxybenzenethiol | COC1=CC=C(C=C1)S | C7H8OS
reactant | N-n-propylhydroxylamine | C(CC)NO | C3H9NO
product | α-[2-(4-Methoxyphenylthio)-5-furyl]-N-n-propylnitrone | COC1=CC=C(C=C1)SC=1OC(=CC1)C=[N+]([O-])CCC | C15H17NO3S
